US04985432
In 75 ml of ethanol, 2.8 g of 2-benzylthio-6-methyl-5H-1,3,4-thiadiazolo[3,2-a]pyrimidin-5-one prepared in Preparation Example 1 was added and dissolved by warming the mixture to 60° C. To this solution, an aqueous suspension of 35.7 g OXONE ® of in 150 ml of water was added, and the mixture was stirred at 60° C. for 2 hours. After cooling, water was added to dissolve inorganic materials, and the deposited crystals were collected by filtration. The crystals were recrystallized from ethanol, and thus 1.6 g of 2-benzylsulfonyl-6-methyl-5H-1,3,4-thiadiazolo[3,2-a]pyrimidin-5-one was obtained. m.p. 171°-173° C. Yield 52%.

reactant | 2-benzylthio-6-methyl-5H-1,3,4-thiadiazolo[3,2-a]pyrimidin-5-one | 2.8 g | C(C1=CC=CC=C1)SC1=NN2C(=NC=C(C2=O)C)S1 | C13H11N3OS2
reactant | OXONE | 35.7 g | OOS(=O)[O-].[K+]
reactant | water | 150 ml | O | H2O
solvent | ethanol | 75 ml | C(C)O | C2H6O
product | 2-benzylsulfonyl-6-methyl-5H-1,3,4-thiadiazolo[3,2-a]pyrimidin-5-one | 1.6 g, Yield 52% | C(C1=CC=CC=C1)S(=O)(=O)C1=NN2C(=NC=C(C2=O)C)S1 | C13H11N3O3S2
